US08710049B2
To a round bottom flask was added 2-azabicyclo[2.2.1]heptan-6-ol (150 mg, 1.326 mmol), 1-fluoro-4-nitrobenzene (187 mg, 1.326 mmol), K2CO3 (366 mg, 2.65 mmol) and DMF (5 mL). The reaction was stirred at 65° C. for 4 hrs. The reaction was then diluted with EtOAc (35 ml). The organic solution was washed with water (3×20 ml) and saturated aqueous NaCl (20 ml). The organic layer was dried over MgSO4, filtered and concentrated. The resulting residue was purified using silica gel chromatography (ISCO system) eluting with a gradient of 0-100% EtOAc/Hex to give the product, 2-(4-nitrophenyl)-2-azabicyclo[2.2.1]heptan-6-ol (150 mg, 0.640 mmol, 49% yield), as a yellow solid. Anal. Calcd. for C12H14N2O3 m/z 234.2, found: 235.2 (M+H)+; 1H NMR (500 MHz, CDCl3) δ ppm 8.10 (d, J=9.90 Hz, 2H), 6.49 (d, J=8.25 Hz, 2H), 4.10 (s, 1H), 3.99 (br. s., 1H), 3.39 (dt, J=8.80, 2.75 Hz, 1H), 2.78 (d, J=8.80 Hz, 1H), 2.74 (br. s., 1H), 1.97 (d, J=9.90 Hz, 1H), 1.92 (ddd, J=13.61, 7.01, 2.47 Hz, 1H), 1.78-1.71 (m, 2H), 1.59-1.53 (m, 1H); 13C NMR (126 MHz, CDCl3) δ ppm 151.32, 136.88, 126.54, 110.27, 71.10, 61.88, 54.11, 40.73, 35.91, 34.23.

reactant | 2-azabicyclo[2.2.1]heptan-6-ol | 1.326 mmol, 150 mg | C12NCC(CC1O)C2 | C6H11NO
reactant | 1-fluoro-4-nitrobenzene | 1.326 mmol, 187 mg | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | K2CO3 | 2.65 mmol, 366 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 35 ml | CCOC(=O)C | C4H8O2
product | 2-(4-nitrophenyl)-2-azabicyclo[2.2.1]heptan-6-ol | 0.640 mmol, 150 mg, 49% yield | [N+](=O)([O-])C1=CC=C(C=C1)N1C2C(CC(C1)C2)O | C12H14N2O3
